US08802713B2
3.97 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole-5-carboxylic acid was dissolved in 60 mL of dichloromethane, and 0.93 mL of oxalyl dichloride and N,N-dimethylformamide in a catalytic amount were added, followed by stirring at room temperature for 1 hour. Then, the solvent was distilled off under reduced pressure, the resulting product was dissolved in 50 mL of tetrahydrofuran, and 1.56 g of sodium borohydride was added, followed by cooling to −20° C. 20 mL of water was slowly dropwise added, and then, stirring was carried out for 12 hours while the temperature was slowly increased to room temperature. Then, the solvent was distilled off under reduced pressure, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:2) to obtain 3.01 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-hydroxymethyl-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole.

reactant | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole-5-carboxylic acid | 3.97 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C(=O)O)OCC(C(F)(F)F)(F)F | C16H11F9N2O3S
reactant | oxalyl dichloride | 0.93 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-hydroxymethyl-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 3.01 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1CO)OCC(C(F)(F)F)(F)F | C16H13F9N2O2S
